US06329391B1
7-[3-Aminopiperidinyl]-1-cyclopropyl-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid dihydrochloride salt
A quantity of 0.19 g of 7-[3-aminopiperidinyl]-1-cyclopropyl-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid is suspended in 1.0 mL of ethanol. The pH of the solution is adjusted to 2 with the addition of hydrogen chloride. The desired product is obtained by evaporation of the solvent.

reactant | 7-[3-aminopiperidinyl]-1-cyclopropyl-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid | 0.19 g | NC1CN(CCC1)C1=CC=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O | C19H23N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 7-[3-Aminopiperidinyl]-1-cyclopropyl-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid dihydrochloride salt | Cl.Cl.NC1CN(CCC1)C1=CC=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O | InChI=1S/C19H23N3O4.2ClH/c1-26-18-15(21-8-2-3-11(20)9-21)7-6-13-16(18)22(12-4-5-12)10-14(17(13)23)19(24)25;;/h6-7,10-12H,2-5,8-9,20H2,1H3,(H,24,25);2*1H
